US08536165B2
6-(2-(Trifluoromethyl)phenyl)pyridin-3-amine
Obtained (2.05 g, yield 59%) following the procedure described in Intermediate 27, starting with 6-bromopyridin-3-amine, 2-(trifluoromethyl)phenylboronic acid.

reactant | 6-bromopyridin-3-amine | BrC1=CC=C(C=N1)N | C5H5BrN2
reactant | 2-(trifluoromethyl)phenylboronic acid | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
product | 6-(2-(Trifluoromethyl)phenyl)pyridin-3-amine | yield 59% | FC(C1=C(C=CC=C1)C1=CC=C(C=N1)N)(F)F | C12H9F3N2
